US07388019B2
Step A: 6-(tert-Butoxycarbonyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine
Reaction of tert-butyl 4-oxo-3-(dimethylaminomethylidene)-1-piperidinecarboxylate (1.78 g) from Intermediate 28, Step A with trifluoroacetamidine (0.86 g) according to the procedure described for Intermediate 28, Step B, and purification by flash chromatography (silica gel; 18% ethyl acetate/hexanes as eluant), afforded the title compound as a viscous orange oil.

reactant | tert-butyl 4-oxo-3-(dimethylaminomethylidene)-1-piperidinecarboxylate | 1.78 g | O=C1C(CN(CC1)C(=O)OC(C)(C)C)=CN(C)C | C13H22N2O3
reactant | trifluoroacetamidine | 0.86 g | FC(C(=N)N)(F)F | C2H3F3N2
product | 6-(tert-Butoxycarbonyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)C(F)(F)F)CC1 | C13H16F3N3O2
